US07402674B2
1-Ethyl-6-(4-methoxy-2-methylphenylamino)-8-methyl-4-oxo-1,4-dihydroquinolone-3-carboxylic acid
Methyl 1-ethyl-6-(4-methoxy-2-methylphenylamino)-8-methyl-4-oxo-1,4-dihydroquinolone-3-carboxylate (30 mg) was dissolved in 5 ml of dioxane, 2.5 equivalents of a 1 N NaOH solution were added, and the mixture was heated at 60° C. for 4 h. Removal of the solvent in vacuo was followed by chromatography on an HPLC system to purify the product. This entailed use of a Merck Purospher-RP18 column and an acetonitrile:water mixture as eluent; the initial acetonitrile content was 15% and rose to 95% over the course of 20 minutes.

reactant | Methyl 1-ethyl-6-(4-methoxy-2-methylphenylamino)-8-methyl-4-oxo-1,4-dihydroquinolone-3-carboxylate | 30 mg | C(C)N1C(C(C(C2=CC(=CC(=C12)C)NC1=C(C=C(C=C1)OC)C)=O)C(=O)OC)=O | C22H24N2O5
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-Ethyl-6-(4-methoxy-2-methylphenylamino)-8-methyl-4-oxo-1,4-dihydroquinolone-3-carboxylic acid | C(C)N1C(C(C(C2=CC(=CC(=C12)C)NC1=C(C=C(C=C1)OC)C)=O)C(=O)O)=O | C21H22N2O5
